US06734191B2
To a solution of (2-cyano-5-methyl-phenyl) acetate (0.72 g, 4.11 mmol) in CCl4 (10 mL) was added recrystallized N-bromosuccinimide (0.767 g, 4.31 mmol) followed by benzoyl peroxide (56 mg, 0.23 mmol). The resultant mixture was heated to reflux for 2.5 hours then cooled to room temperature. The mixture was diluted with diethyl ether (50 mL), filtered through filter paper, and the filtrate was concentrated. Purification of the crude material by column chromatography (6:1 hexanes-EtOAc) provided 0.31 g (30%) of (5-bromomethyl-2-cyano-phenyl) acetate as a colorless oil. 1H NMR (CDCl3) δ2.40 (s, 3H), 4.45 (s, 2H), 7.33 (s, 1H), 7.35 (d, 1H, J=9 Hz), 7.65 (d, 1H, J=9 Hz).

reactant | (2-cyano-5-methyl-phenyl) acetate | 4.11 mmol, 0.72 g | C(C)(=O)OC1=C(C=CC(=C1)C)C#N | C10H9NO2
reactant | N-bromosuccinimide | 4.31 mmol, 0.767 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.23 mmol, 56 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | (5-bromomethyl-2-cyano-phenyl) acetate | 0.31 g, 30% | C(C)(=O)OC1=C(C=CC(=C1)CBr)C#N | C10H8BrNO2
